US08535655B2
a) 4-oxo-4-phenoxybutanoic acid
Phenol (1.88 g, 20.0 mmol) was dissolved in a solution of sodium carbonate (anhydrous) (1.06 g, 10.0 mmol) in water (20 ml) and cooled to 0° C. Succinic anhydride (2.00 g, 20.0 mmol) was added and the suspension was allowed to stir at 0° C. for 1 h. The reaction mixture was gradually warmed to room temperature and stirred over night. The clear solution was cooled to 0° C. and acidified to pH 0 (addition of 1M aqueous HCl). The reaction mixture was extracted with chloroform (3×25 ml), dried over Na2SO4, filtered and the solvent removed under reduced pressure to obtain a white solid (1.63 g, 8.4 mmol, 42%). The product was used without any further purification.

reactant | Phenol | 20.0 mmol, 1.88 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium carbonate | 10.0 mmol, 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Succinic anhydride | 20.0 mmol, 2.00 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | HCl | 1M | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 4-oxo-4-phenoxybutanoic acid | 8.4 mmol, 1.63 g, 42% | O=C(CCC(=O)O)OC1=CC=CC=C1 | C10H10O4
